US08912330B2
N-cyclopropyl-4-{1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridin-6-yl}benzamide
The entitled compound was prepared from 6-bromo-1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridine and [4-(cyclopropylcarbamoyl)phenyl]boronic acid according to the procedure described in example 4.

reactant | 6-bromo-1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridine | BrC=1C=C2C(=NC1)C=CN2OC(C)C2=C(C(=CC=C2Cl)F)Cl | C15H10BrCl2FN2O
reactant | [4-(cyclopropylcarbamoyl)phenyl]boronic acid | C1(CC1)NC(=O)C1=CC=C(C=C1)B(O)O | C10H12BNO3
product | N-cyclopropyl-4-{1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridin-6-yl}benzamide | C1(CC1)NC(C1=CC=C(C=C1)C=1C=C2C(=NC1)C=CN2OC(C)C2=C(C(=CC=C2Cl)F)Cl)=O | C25H20Cl2FN3O2
